Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([H:4])[H:5].[O:1]=[C:2]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.57230053586
[C:1]#[C:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:9][H:10].[H:8],3.08121951981
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[O:4][H:5],2.9102139518
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][O:7][H:8]>>[C:1]#[C:2][C:3]([H:4])[O:6][O:7][H:8].[H:5],1.96452948493
[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.04924294425
[H:1][C:2]#[C:3][C@@:4]1([H:5])[O:6][O:7][C:8]1[H:9]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6])[C:8](=[O:7])[H:9],-2.72994832431
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.05856340608
[C:2]([H:3])#[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11].[O:1]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-2.71374205618
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([O:3][H:4])[C:5]#[C:6][H:7]>>[O:1]=[C:2]([O:3][H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.72590855932
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[O:14][H:15],4.233126020569999
[H:1][O:2][C:3]#[C:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]#[C:4][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11],4.603810909630001
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:9]([H:10])[H:11].[H:8]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.84582363632
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])[C:7]([H:8])=[C:9][H:10]>>[C:5]([H:6])[C:7]([H:8])=[C:9][H:10].[O:1][C:2]#[C:3][H:4],2.45059237698
[H:7].[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.57334560227
[C:1].[C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],-6.738425550340001
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:9]([H:10])([H:11])[H:12].[H:8],2.43425165219
[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.3845473478
[C:1]#[C:2][C:5]([H:6])[C:7]#[C:8].[O:3][H:4]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]#[C:8],-4.69163079919
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[C:10]([H:11])[O:12][H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],3.5921162858099995
[H:1][C:2]#[C:3][C@:6]([C:5]=[O:4])([H:7])[O:8][H:9]>>[H:1][C:2]=[C:3]1[O:4][C:5][C@:6]1([H:7])[O:8][H:9],2.8125394967900004
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:1][C:2]#[C:3][H:4],3.5518651597199993
[C:1]#[C:2][O:3][C:4](=[C:5][H:6])[O:7][H:8]>>[C:1]#[C:2][O:3][C:4][O:7][H:8].[C:5][H:6],6.31759583622
[H:1][C:2][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11].[H:3]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-4.599735476
[C:1].[C:2]([H:3])=[C:4]([C:5]#[C:6][H:7])[O:8][H:9]>>[C:1]=[C:2]([H:3])[C:4]([C:5]#[C:6][H:7])[O:8][H:9],-5.391049044990001
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[C:4]([H:5])[H:6].[H:1][O:2][C:3]/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],6.94245369362
[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-3.70641499305
[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.553973302799999
[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[O:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-0.251227530001
[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-3.81520051062
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:10](=[O:9])[H:11]>>[H:1][C:2][C:3]([H:4])[C:5]([H:6])[C@:7]1([H:8])[O:9][C:10]1[H:11],3.86498545185
[C:1]=[C:2]1[O:3][C@:4]1([H:5])[C:6](=[O:7])[H:8]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6](=[O:7])[H:8],0.703894326782
[C:1].[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8],-6.49705966168
